US05272161
Ethyl 4-(3-chlorophenyl)-5-(2-hydroxyethoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate
3.4 g (10 mmol) of 4-(3-chlorophenyl)-3-(ethoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-5-carboxylic acid and 2 g (10 mmol) of carbonyldiimidazole are stirred overnight at room temperature in 50 ml of abs. THF. The mixture is evaporated, the residue is taken up in 50 ml of ethyl acetate and the mixture is washed twice with 50 ml of water each time. After drying over Na2SO4, the solvent is distilled off and the residue (3.55 g) is dissolved in 10 ml of abs. THF. After addition of 100 ml of ethylene glycol and 100 mg of NaH, the mixture is stirred at room temperature for 3 h, mixed with 100 ml of ethyl acetate and extracted twice by shaking with 100 ml of water each time. After drying over sodium sulphate, the extract is evaporated. The residue is homogeneous in the TLC and is further processed directly. Yield: 2.95 g (83% of theory)

reactant | 4-(3-chlorophenyl)-3-(ethoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-5-carboxylic acid | 10 mmol, 3.4 g | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)O)C)C)C(=O)OCC | C17H18ClNO4
reactant | carbonyldiimidazole | 10 mmol, 2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | C1CCOC1 | C4H8O
product | Ethyl 4-(3-chlorophenyl)-5-(2-hydroxyethoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCO)C)C)C(=O)OCC | C19H22ClNO5
